US07727979B2
sodium iodide (12.4 mmol) dissolved in acetonitrile (12.4 ml), is added dropwise at room temperature to a solution of 4-phenylcyclohexanone (10 mmol) in hexane (10 ml), followed by triethylamine (12.4 mmol) and trimethylchlorosilane (12.4 mmol). After stirring for two hours cold pentane and ice water are added. The aqueous phase is extracted with hexane. The combined organic phases are washed with ice water, dried over sodium sulphate and the solvent is removed in a vacuum. Trimethyl-(4-phenyl-cyclohex-1-enyloxy)-silane (1.8 g) is obtained in pure form in a yield of 73% (Tetrahedron 1987, 43, 9, 2075-2088): tR 2.29 min (LC-2); ESI-MS (+): m/z 247.27 [M+H]+.

reactant | sodium iodide | 12.4 mmol | [I-].[Na+]
reactant | 4-phenylcyclohexanone | 10 mmol | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | triethylamine | 12.4 mmol | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 12.4 mmol | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | 12.4 ml | C(C)#N | C2H3N
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | pentane | CCCCC | C5H12
product | Trimethyl-(4-phenyl-cyclohex-1-enyloxy)-silane | 1.8 g, yield of 73% | C[Si](OC1=CCC(CC1)C1=CC=CC=C1)(C)C | C15H22OSi
